** sch_path: /home/designer/shared/Delta-sigma-adc/xschem/cic_tb.sch
**.subckt cic_tb
V1 CLK GND PULSE(0 1.2 0 100p 100p 5n 100n)
V2 RST GND 0
V3 X GND 1.2
A18 [ CLK ] [ net1 ] adc1
.model adc1 adc_bridge in_low=0.1 in_high=0.9
A1 [ RST ] [ net2 ] adc1
.model adc1 adc_bridge in_low=0.1 in_high=0.9
A3 [ X ] [ net3 ] adc1
.model adc1 adc_bridge in_low=0.1 in_high=0.9
A2 [ net17 ] [ D0 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
A4 [ net16 ] [ D1 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
A5 [ net15 ] [ D2 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
A6 [ net14 ] [ D3 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
A7 [ net13 ] [ D4 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
A8 [ net12 ] [ D5 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
A9 [ net11 ] [ D6 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
A10 [ net10 ] [ D7 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
A11 [ net9 ] [ D8 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
A12 [ net8 ] [ D9 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
A13 [ net7 ] [ D10 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
A14 [ net6 ] [ D11 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
A15 [ net5 ] [ D12 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
A16 [ net4 ] [ D13 ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
adut [ net1 net2 net3 ] [ net4 net5 net6 net7 net8 net9 net10 net11 net12 net13 net14 net15 net16 net17 ] null dut
.model dut d_cosim simulation=./CIC_wrapper.so
**** begin user architecture code


.param temp=27
.control
save all
tran 100p 100u
write cic_tb.raw
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
